2107-08-24 07:06:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 10044**] is a 61 year old gentleman with a PMH
   significant for ESRD s/p CRT complicated by chronic allograft
   nephropathy and transplant RAS, s/p nephrectomy for RCC, IDDM, and OSA
   admitted with chest pain and by acute renal failure complicated by
   anasarca now transferred to the MICU for NPPV s/p renal angiogram with
   intubation.
   24 Hour Events:
   - NPPV - decreased PEEP for high O2 and PaCO2 in 60's, raised minute
   ventilation, however repeat ABG showed no improvement. Trial of off
   NPPV had ABG with PaCO2 in 80's. Now patient refusing to go back on
   NPPV.
   - Labetolol drip for pressures 200's/120's. Goal SBP 160
   - Low grade fever, gave tylenol. Did not culture at this time.
   ARTERIAL LINE - START [**2107-8-23**] 07:02 PM
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-8-24**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.2
   HR: 66 (59 - 79) bpm
   BP: 142/64(87) {128/62(82) - 213/87(120)} mmHg
   RR: 23 (22 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,547 mL
                                                                    143 mL
   PO:
             TF:
   IVF:
                                                                  1,547 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    260 mL
   Urine:
                                                                    285 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    822 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 371 (162 - 519) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 91%
   ABG: 7.22/81.[**Numeric Identifier 253**]/69/33/2
   Ve: 4.3 L/min
   PaO2 / FiO2: 173
   Physical Examination
   NAD, facemask, sitting upright, alert and oriented
   RRR, III/VI systolic murmur
 unchanged from previous exam
   Coarse breath sounds bilateral, crackles at base, abdomen breathing
   effort
   Soft, distended, nontender, negative bowel sounds
   Extremities warm, 2+ pulses ds, pitting edema
   Labs / Radiology
   179 K/uL
   8.4 g/dL
   132 mg/dL
   3.8 mg/dL
   33 mEq/L
   4.5 mEq/L
   46 mg/dL
   104 mEq/L
   141 mEq/L
   28.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2107-8-23**]  05:24 PM
                             [**2107-8-23**]  05:38 PM
                             [**2107-8-23**]  08:34 PM
                             [**2107-8-23**]  11:55 PM
                             [**2107-8-24**]  03:35 AM
                             [**2107-8-24**]  03:50 AM
                             [**2107-8-24**]  06:17 AM
   WBC
   9.1
   10.2
   Hct
   30.2
   28.2
   Plt
   186
   179
   Cr
   3.4
   3.8
   TCO2
   35
   34
   34
   34
   35
   Glucose
   126
   132
   Other labs: PT / PTT / INR:14.2/31.7/1.2, Alk Phos / T Bili:/0.9,
   Differential-Neuts:82.5 %, Lymph:11.8 %, Mono:3.9 %, Eos:1.6 %, Lactic
   Acid:0.6 mmol/L, LDH:178 IU/L, Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.6
   mg/dL
   Imaging: CXR
 fluid overload
   Assessment and Plan
   Mr. [**Known lastname 10044**] is a 61 year old gentleman with a PMH significant for ESRD
   s/p CRT complicated by chronic allograft nephropathy and transplant
   RAS, s/p nephrectomy for RCC, IDDM, and OSA admitted with chest pain
   and by acute renal failure complicated by anasarca now transferred to
   the MICU for NPPV s/p renal angiogram with intubation.
   .
   # Hypercarbic respiratory distress: Patient with baseline chronic
   respiratory acidosis suggestive of obstructive lung disease.  Uncertain
   if this is due to obesity hypoventilation versus COPD, although he has
   a baseline PCO2 of 55-60 and HCO3 mid-30s.  In addition, unclear if the
   patient was extubated to NIPPV given his severe OSA (RDI 141). Patient
   appears to be oxygenating well and was diuresed prior to procedure,
   although he still appears peripherally volume overloaded on exam. Will
   defer diuresis given acute on chronic renal failure and contrast load.
   Finally, the patient has increased abdominal distention, which is
   likely contributing to respiratory distress via increased restrictive
   physiology.  Of note, patient was a difficult intubation pre-op.
   - Patient on BiPAP, follow clinical status and ABG
 PaCO2 55-60, SaO2
   >88%
   - CXR tomorrow morning
   - Talk to nephrology transplant about diuresis in setting of recent dye
   load
   - if clinical status worsens
patient is a difficult intubation
   - Duonebs
   .
   # Acute on chronic renal failure: Unknown etiology at this time. Per
   report, renal angiogram without increased stenosis and no intervention
   performed. Patient is at inreased risk for contrast-induced nephropathy
   given contrast load.
   - Trend lytes, creatinine, and UOP
   - Follow-up recs with transplant nephrology and vascular surgery
   - Continue prednisone and mycophenolate mofetil
   .
   # HTN: Patient has baseline hypertension with SBP 150-200.
   - Discontinue labetalol drip
   - Start clonidine, labetalol, amlodipine (if mental status declining
   consider labetalol IV prn)
   - Goal SBP 150
   - Hold lisinopril for now
   .
   # Anemia: Baseline hct in 30s, currently at 25.3. Of note, patient has
   history of intravascular hemolysis s/p prior renal angiogram.
   - Trend hct Q12H
   - AM hemolysis labs - haptoglobin,  tbili, LD, smear
   - Active T+S with access
   .
   # IDDM: Continue NPH and HISS.
   .
   # Chest Pain: Unable to obtain ROS currently, but on review of records
   chest pain has since resolved s/p admission.  Most likely etiology is
   GERD with flat cardiac biomarkers and unchanged ECG.
   - Continue omeprazole, maalox
   .
   # GERD: Patient with history of GERD and Barrett's esophagus.
   - PPI as above.
   .
   FEN: NPO given respriatory distress. Replete as necessary.
try to
   change meds over to IV given tenuous respiratory status
   PPx: Heparin SQ
   Access: PIV
   Code: Full (confirmed)
   Contact: [**Known lastname **],[**Name (NI) 470**] (wife) [**Telephone/Fax (1) 10050**]
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Comments: NPO for respiratory status
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2107-8-23**] 07:02 PM
   22 Gauge - [**2107-8-24**] 12:07 AM
   Prophylaxis:
   DVT:  SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: No constraints
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2107-08-24 09:32:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2107-8-23**] 07:02 PM
   Remained on BIPAP most of evening - tried lower PEEP and volumes better
   but then PaCo2 higher-? leak
   Started on labetalol drip for HTN
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2107-8-24**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36
C (96.8
   HR: 54 (54 - 79) bpm
   BP: 135/62(83) {115/59(76) - 213/87(120)} mmHg
   RR: 18 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
             Total In:
                                                                  1,548 mL
                                                                    437 mL
   PO:
             TF:
   IVF:
                                                                  1,548 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    335 mL
   Urine:
                                                                    285 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    823 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (162 - 599) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.29/67/104/33/2
   Ve: 4.5 L/min
   PaO2 / FiO2: 297
   Physical Examination
   Gen: lying in bed on NIPPV, somnolent
   HEENT: eyes open to voice
   Chest: BS bilat clear
   CV: RR
   Abdominal: Soft, Distended, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  warm
   Neurologic: opens eye to command but somnelent
   Labs / Radiology
   8.4 g/dL
   179 K/uL
   132 mg/dL
   3.8 mg/dL
   33 mEq/L
   4.5 mEq/L
   46 mg/dL
   104 mEq/L
   141 mEq/L
   28.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2107-8-23**]  05:24 PM
                             [**2107-8-23**]  05:38 PM
                             [**2107-8-23**]  08:34 PM
                             [**2107-8-23**]  11:55 PM
                             [**2107-8-24**]  03:35 AM
                             [**2107-8-24**]  03:50 AM
                             [**2107-8-24**]  06:17 AM
                             [**2107-8-24**]  08:02 AM
   WBC
   9.1
   10.2
   Hct
   30.2
   28.2
   Plt
   186
   179
   Cr
   3.4
   3.8
   TCO2
   35
   34
   34
   34
   35
   34
   Glucose
   126
   132
   Other labs: PT / PTT / INR:14.2/31.7/1.2, Alk Phos / T Bili:/0.9,
   Differential-Neuts:82.5 %, Lymph:11.8 %, Mono:3.9 %, Eos:1.6 %, Lactic
   Acid:0.6 mmol/L, LDH:178 IU/L, Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   61 yr old man with hypercarbic resp failure
   Hypercarbic Resp Distress: started on NIPPV acutely in setting of
   extubation without adequate mental status in setting of known severe
   OSA.  In terms of chronic resp acidosis likely some element of
   restriction with abd and possible obesity hypoventilation and will need
   comprehensive plan long term or chronic hypoventilation.
   The fact that he remains essentially BIPAP dependent is concerning and
   hopefully we will be able to gain som e ground this AM or he will
   require reintubation as he ultimately will need nutrition, po meds, and
   could develop skin breakdown
   ARF: overall trend had been improving but this was prior to the dye
   load of Angio and now up a bit today
   Need to manage expectantly
   Continue prednisone and cellcept.
   Severe HTN: using IV labetalol now. Hop to be able to wean of NIPPV and
   restart home meds.
   Anemia - history of intravasc hemolysis so needs close trending
   stable
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: NPO while on NIPPV
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-8-23**] 07:02 PM
   22 Gauge - [**2107-8-24**] 12:07 AM
   18 Gauge - [**2107-8-24**] 08:11 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with pt and wife
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2107-08-25 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Per renal, no diuretics, IVF, NGT placement to deliver
   immunosuppressive meds in setting poor respiratory function however
   were able to give cellcept, so no NGT placed.
   pt unarousable on BIPAP during day to sternal rub with stable ABGs
   showing hypercarbia. Evetually became more alert, talking, transitioned
   to stent mask, with SPO2 in mid to high 90s, without change in ABG.
   Labetelol gtt dc'd, restarted on home clonidine, labetolol, became
   hypertensive to 180s. Pt without change mentation, HA, dizziness, CP,
   did not restart labetolol gtt.
   Pt NPO given respiratory status,  plan to restart p.o/p.o meds in am.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-8-25**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 63 (50 - 76) bpm
   BP: 159/73(97) {115/59(76) - 191/80(112)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                    860 mL
                                                                    120 mL
   PO:
                                                                    300 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    560 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    225 mL
   Urine:
                                                                    835 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 552 (445 - 599) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.27/66/99.[**Numeric Identifier 128**]/31/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Alert, Oriented, Comfortable, wearing BiPAP mask.
   Denies any pain other than throat discomfort due to mask.
   Auscultation limited, shallow respirations.
   RRR, 3/6 systolic murmur
   Abdomen obese, +BS, non-tender
   Trace pedal edema, 2+ peripheral pulses
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   7.4 g/dL
   81 mg/dL
   4.3 mg/dL
   31 mEq/L
   4.4 mEq/L
   51 mg/dL
   104 mEq/L
   142 mEq/L
   25.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2107-8-24**]  03:35 AM
                             [**2107-8-24**]  03:50 AM
                             [**2107-8-24**]  06:17 AM
                             [**2107-8-24**]  08:02 AM
                             [**2107-8-24**]  10:25 AM
                             [**2107-8-24**]  12:04 PM
                             [**2107-8-24**]  03:18 PM
                             [**2107-8-24**]  10:08 PM
                             [**2107-8-25**]  03:35 AM
                             [**2107-8-25**]  03:59 AM
   WBC
   10.2
   6.1
   Hct
   28.2
   25.6
   Plt
   179
   190
   Cr
   3.8
   4.3
   TCO2
   34
   35
   34
   34
   34
   34
   34
   32
   Glucose
   132
   81
   Other labs: PT / PTT / INR:13.5/30.7/1.2, Alk Phos / T Bili:/0.9,
   Differential-Neuts:82.5 %, Lymph:11.8 %, Mono:3.9 %, Eos:1.6 %, Lactic
   Acid:0.6 mmol/L, LDH:178 IU/L, Ca++:10.7 mg/dL, Mg++:2.4 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   Mr. [**Known lastname 10044**] is a 61 year old gentleman with a PMH significant for ESRD
   s/p CRT complicated by chronic allograft nephropathy and transplant
   RAS, s/p nephrectomy for RCC, IDDM, and OSA admitted with chest pain
   and by acute renal failure complicated by anasarca now transferred to
   the MICU for NPPV s/p renal angiogram with intubation.
   .
   # Hypercarbic respiratory distress: Patient with baseline chronic
   respiratory acidosis suggestive of obstructive lung disease.  Uncertain
   if this is due to obesity hypoventilation versus COPD, although he has
   a baseline PCO2 of 55-60 and HCO3 mid-30s.  In addition, unclear if the
   patient was extubated to NIPPV given his severe OSA (RDI 141). Patient
   appears to be oxygenating well and was diuresed prior to procedure,
   although he still appears peripherally volume overloaded on exam. Will
   defer diuresis given acute on chronic renal failure and contrast load.
   Finally, the patient has increased abdominal distention, which is
   likely contributing to respiratory distress via increased restrictive
   physiology.  Of note, patient was a difficult intubation pre-op.
   - Patient on BiPAP, follow clinical status and ABG
 PaCO2 55-60, SaO2
   >88%
   -Patient off BiPAP yesterday evening, back on overnight.
   - CXR monitoring
 slightly improved today.
   - Will take off BiPAP again today, monitor response.
   - if clinical status worsens
patient is a difficult intubation
   - Duonebs
   .
   # Acute on chronic renal failure: Etiology thought to be
   contrast-induced nephropathy. Per report, renal angiogram without
   increased stenosis and no intervention performed. Patient is at
   inreased risk for contrast-induced nephropathy given contrast load.
   -Renal following, continue to recommend conservative management
 keep
   even, continue meds.  Creatinine continues to rise slowly, which is
   consistent with a contrast-induced nephropathy, in which creatinine
   should plateau after 2-3 days, then decline.
   - Trend lytes, creatinine, and UOP
   - Continue prednisone and mycophenolate mofetil
   .
   # HTN: Patient has baseline hypertension with SBP 150-200.
   - Discontinued labetolol drip
   - Yesterday started clonidine, labetalol, amlodipine (if mental status
   declining consider labetalol IV prn).  Mental status improved, pressure
   elevated but mostly stable, slightly above goal.
   - Goal SBP 150
   - Hold lisinopril for now
   .
   # Anemia: Baseline hct in 30s. Of note, patient has history of
   intravascular hemolysis s/p prior renal angiogram.
   - Trend hct
 today 25.6, will repeat in 12 hours.
   - Hemolysis labs WNL yesterday.
   - Active T+S with access.
   .
   # IDDM: Continue NPH and HISS at half doses.  BS well controlled.
   .
   # Chest Pain: Resolved since resolved s/p admission.  Most likely
   etiology is GERD with flat cardiac biomarkers and unchanged ECG.
   Patient denies any chest pain today or yesterday.
   - Continue omeprazole, maalox
   .
   # GERD: Patient with history of GERD and Barrett's esophagus.
   - PPI as above.
   .
   FEN: Has been NPO for past 2 days except for meds.  Will try to resume
   PO intake if tolerating off BiPAP today.
   PPx: Heparin SQ
   Access: PIV
   Code: Full (confirmed)
   Contact: [**Known lastname **],[**Name (NI) 470**] (wife) [**Telephone/Fax (1) 10050**]
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-8-23**] 07:02 PM
   22 Gauge - [**2107-8-24**] 12:07 AM
   18 Gauge - [**2107-8-24**] 12:25 PM
   Prophylaxis:
   DVT:  heparin subQ
   Stress ulcer:  PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-08-25 10:52:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   able to come off NIPPV
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-8-25**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 77 (50 - 79) bpm
   BP: 167/73(101) {141/62(85) - 191/80(112)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.6 kg (admission): 107.4 kg
   Height: 70 Inch
                  Total In:
                                                                    860 mL
                                                                    180 mL
   PO:
                                                                    300 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    560 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    485 mL
   Urine:
                                                                    835 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 552 (450 - 581) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 92%
   ABG: 7.27/66/99.[**Numeric Identifier 128**]/31/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   190 K/uL
   81 mg/dL
   4.3 mg/dL
   31 mEq/L
   4.4 mEq/L
   51 mg/dL
   104 mEq/L
   142 mEq/L
   25.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2107-8-24**]  03:35 AM
                             [**2107-8-24**]  03:50 AM
                             [**2107-8-24**]  06:17 AM
                             [**2107-8-24**]  08:02 AM
                             [**2107-8-24**]  10:25 AM
                             [**2107-8-24**]  12:04 PM
                             [**2107-8-24**]  03:18 PM
                             [**2107-8-24**]  10:08 PM
                             [**2107-8-25**]  03:35 AM
                             [**2107-8-25**]  03:59 AM
   WBC
   10.2
   6.1
   Hct
   28.2
   25.6
   Plt
   179
   190
   Cr
   3.8
   4.3
   TCO2
   34
   35
   34
   34
   34
   34
   34
   32
   Glucose
   132
   81
   Other labs: PT / PTT / INR:13.5/30.7/1.2, Alk Phos / T Bili:/0.9,
   Differential-Neuts:82.5 %, Lymph:11.8 %, Mono:3.9 %, Eos:1.6 %, Lactic
   Acid:0.6 mmol/L, LDH:178 IU/L, Ca++:10.7 mg/dL, Mg++:2.4 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   Hypercarbic Resp Distress: started on NIPPV acutely in setting of
   extubation without adequate mental status in setting of known severe
   OSA.  In terms of chronic resp acidosis likely some element of
   restriction with abd and possible obesity hypoventilation and will need
   comprehensive plan long term or chronic hypoventilation.
   The fact that he remains essentially BIPAP dependent is concerning and
   hopefully we will be able to gain som e ground this AM or he will
   require reintubation as he ultimately will need nutrition, po meds, and
   could develop skin breakdown
   ARF: overall trend had been improving but this was prior to the dye
   load of Angio and now up a bit today. Need to manage expectantly.
   Continue prednisone and cellcept.
   Severe HTN: using IV labetalol now. Hop to be able to wean of NIPPV and
   restart home meds.
   Anemia - history of intravasc hemolysis so needs close trending
   stable
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-8-23**] 07:02 PM
   18 Gauge - [**2107-8-24**] 12:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: